US05344928
N-(3-Maleimidopropyl)-N-methylaniline
N-(3-Aminopropyl)-N-methylaniline [S. L. Shapiro et al., J. Am. Chem. Soc., 81, 3081 (1958)](8.3 g) was dissolved in dichloromethane (50 ml). Maleic anhydride (6 g) was added portionwise under ice-cooling and the mixture was stirred at room temperature for 1 hour. The solvent was distilled off and then acetic anhydride (20 ml) was added. The resulting mixture was allowed to stand at room temperature for 2 days. The reaction mixture was stirred at 60° C. for 2 hours and further at 100° C. for 2 hours. The mixture was concentrated under reduced pressure and the residue was extracted with ethyl acetate. The organic layer was neutralized with an aqueous sodium bicarbonate, washed with saturated brine and dried over anhydrous sodium sulfate. After concentration, the residue was subjected to column chromatography on silica gel and eluted with hexane/ethyl acetate (4:1). The desired compound thus obtained was recrystallized from the same solvent to obtain the compound as yellow needles (4.1 g).

reactant | N-(3-Aminopropyl)-N-methylaniline | 8.3 g | NCCCN(C1=CC=CC=C1)C | C10H16N2
reactant | Maleic anhydride | 6 g | C1(\C=C/C(=O)O1)=O | C4H2O3
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | N-(3-Maleimidopropyl)-N-methylaniline | C1(C=CC(N1CCCN(C1=CC=CC=C1)C)=O)=O | C14H16N2O2
